US20010036946A1
b) 4-(ethoxycarbonylamino)-thiophene-3-carboxaldehyde
Into an ice-cold suspension of 12.9 g (0.34 mol) of lithium aluminium hydride in 800 ml of tert. butyl-methylether was added dropwise, at a reaction temperature of about 0° C., a solution of 59.1 g (0.258 mol) of methyl 4-(ethoxycarbonylamino)-thiophene-3-carboxylate in 200 ml of tert. butyl-methylether, and the mixture was then stirred for a further 2 hours at 100C. Then 13 ml of water, 13 ml of 2N aqueous sodium hydroxide solution and 39 ml of water were added dropwise one after another and the mixture was stirred for 1 hour at room temperature. It was filtered, and 500 g of activated manganese (IV) oxide were added in batches to the filtrate with stirring. After the completion of the reaction, which could be monitored by thin layer chromatography, the mixture was filtered again and the filtrate was then evaporated down in vacuo. The crystalline residue which solidified was further processed without any more purification. yield: 28.2 g (54.9% of theory).

reactant | lithium aluminium hydride | 0.34 mol, 12.9 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 4-(ethoxycarbonylamino)-thiophene-3-carboxylate | 0.258 mol, 59.1 g | C(C)OC(=O)NC=1C(=CSC1)C(=O)OC | C9H11NO4S
reactant | water | 13 ml | O | H2O
reactant | sodium hydroxide | 2N, 13 ml | [OH-].[Na+]
reactant | water | 39 ml | O | H2O
solvent | tert. butyl-methylether | 800 ml | C(C)(C)(C)OC | C5H12O
solvent | tert. butyl-methylether | 200 ml | C(C)(C)(C)OC | C5H12O
product | 4-(ethoxycarbonylamino)-thiophene-3-carboxaldehyde | C(C)OC(=O)NC=1C(=CSC1)C=O | C8H9NO3S
